US07259183B2
To a solution of 4-bromo-2-chlorobenzoic acid (2.00 g, 8.50 mmol) in DMF (20 ml) was added N,N-diisopropylethyl amine (3.18 ml, 18.69 mmol) followed by TBTU (3.00 g, 9.34 mmol) followed by dimethylhydroxylamine (829 mg, 8.50 mmol). The reaction mixture was stirred at rt overnight and then diluted with ether and the organic layer was washed with water, 1N HCl, sat. NaHCO3, and brine. The organic layer was then dried (MgSO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography to give 4-bromo-2-chloro-N-methoxy-N-methylbenzamide (2.27 g, 96%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 7.59 (d, J=1.5 Hz, 1H), 7.45 (dd, J=1.5, 8.0 Hz, 1H), 7.22 (d, J=8.0 Hz, 1H), 3.48 (br s, 3H), 3.38 (br s, 3H).

reactant | 4-bromo-2-chlorobenzoic acid | 8.50 mmol, 2.00 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | N,N-diisopropylethyl amine | 18.69 mmol, 3.18 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 9.34 mmol, 3.00 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | dimethylhydroxylamine | 8.50 mmol, 829 mg | CN(O)C | C2H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 4-bromo-2-chloro-N-methoxy-N-methylbenzamide | 2.27 g, 96% | BrC1=CC(=C(C(=O)N(C)OC)C=C1)Cl | C9H9BrClNO2
